US09359362B2
(rac)-7-[4-Cyanophenyl]-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile
Under an atmosphere of argon protective gas, (rac)-7-[4-cyanophenyl]-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (12 g, 29.5 mmol) was stirred in abs. dichloromethane (600 ml) with molecular sieve (20 g, 4 Å) for 1 h. 3-(Trifluoromethyl)phenylboronic acid (16.78 g, 88.4 mmol, 3 eq.) was added together with anhydrous copper(II) acetate (16.05 g, 88.4 mmol, 3 eq.). Abs. pyridine (400 ml) and triethylamine (12.32 ml, 88.4 mmol, 3 eq.) were then added. This mixture was stirred briefly (5 min), more abs. pyridine (440 ml) was then added and the mixture was stirred for 36 h. Since it was subsequently still possible to detect starting material (HPLC), 2,6-lutidine (3.43 ml, 29.6 mmol, 1 eq.) and a catalytic amount (spatula tip) of activated copper were added and the mixture was stirred under an atmosphere of dry air for a further 36 h. More 3-(trifluoromethyl)phenylboronic acid (5.59 g, 29.5 mmol, 1 eq.), anhydrous copper(II) acetate (5.35 g, 29.5 mmol, 1 eq.) and triethylamine (4.11 ml, 29.5 mmol, 1 eq.) were then metered in, and the mixture was then stirred for a further 5 d. The reaction mixture was then concentrated to dryness, and the residue was applied to silica gel using dichloromethane (˜500 ml) and purified by flash chromatography (silica gel; mobile phase: cyclohexane/ethyl acetate 1:2). The product was obtained as a solid (3.07 g, 18.1% of theory).

reactant | (rac)-7-[4-cyanophenyl]-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 29.5 mmol, 12 g | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)N2C(C1=CC=CC=C1C2=O)=O)C)C#N | C22H13N7O2
reactant | 3-(Trifluoromethyl)phenylboronic acid | 88.4 mmol, 16.78 g, 3 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | triethylamine | 88.4 mmol, 12.32 ml, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 2,6-lutidine | 29.6 mmol, 3.43 ml, 1 eq. | N1=C(C=CC=C1C)C | C7H9N
reactant | 3-(trifluoromethyl)phenylboronic acid | 29.5 mmol, 5.59 g, 1 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | triethylamine | 29.5 mmol, 4.11 ml, 1 eq. | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 88.4 mmol, 16.05 g, 3 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper | [Cu] | Cu
catalyst | copper(II) acetate | 29.5 mmol, 5.35 g, 1 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | pyridine | 440 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | (rac)-7-[4-Cyanophenyl]-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=C(N2)N2C(C1=CC=CC=C1C2=O)=O)C2=CC(=CC=C2)C(F)(F)F)C)C#N | C29H16F3N7O2
